US07414131B2
C. 7-(3,3,3-Trifluoropropyl)-5,6,7,8-tetrahydro-N-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)pyrido[3,4-d]pyrimidin-4-amine hydrochloride
A solution of 1-(4-(2,3-dihydrobenzo[b][1,4]dioxin-6-ylamino)-5,6-dihydropyrido[3,4-d]pyrimidin-7(8H)-yl)-3,3,3-trifluoropropan-1-one (0.069 g, 0.17 mmol) in THF (5 mL) was cooled to 0° C. under nitrogen. Lithium aluminum hydride was added (0.85 ml of a 1.0M solution in THF, 0.85 mmol) and the mixture was stirred at 0° C. for one h. The mixture was allowed to gradually warm to r.t. with overnight stirring and then cooled again to 0° C. Water (1 mL) was added dropwise. After five min, 10N NaOH (1 mL) was added and the mixture was allowed to warm to r.t. Water (3 mL) was added. The mixture was then extracted with ethyl acetate (2×15 mL). The combined organic extracts were washed with water and brine and dried over sodium sulfate. The solvent was concentrated to leave an oil which was purified by silica gel chromatography (ethyl acetate/hexane gradient). The colorless oil so obtained (0.020 g) was dissolved in diethyl ether and treated with 1.0 M HCl in diethyl ether (0.05 mL) to produce a solid which was triturated with diethyl ether and dried to yield the product (17 mg).

reactant | 1-(4-(2,3-dihydrobenzo[b][1,4]dioxin-6-ylamino)-5,6-dihydropyrido[3,4-d]pyrimidin-7(8H)-yl)-3,3,3-trifluoropropan-1-one | 0.17 mmol, 0.069 g | O1C2=C(OCC1)C=C(C=C2)NC=2C1=C(N=CN2)CN(CC1)C(CC(F)(F)F)=O | C18H17F3N4O3
reactant | Lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 10N, 1 mL | [OH-].[Na+]
reactant | HCl | 1.0 M | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 0.05 mL | C(C)OCC | C4H10O
solvent | Water | 3 mL | O | H2O
solvent | Water | 1 mL | O | H2O
product | 7-(3,3,3-Trifluoropropyl)-5,6,7,8-tetrahydro-N-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)pyrido[3,4-d]pyrimidin-4-amine hydrochloride | 17 mg | Cl.FC(CCN1CC=2N=CN=C(C2CC1)NC1=CC2=C(OCCO2)C=C1)(F)F | InChI=1S/C18H19F3N4O2.ClH/c19-18(20,21)4-6-25-5-3-13-14(10-25)22-11-23-17(13)24-12-1-2-15-16(9-12)27-8-7-26-15;/h1-2,9,11H,3-8,10H2,(H,22,23,24);1H
